US06630578B2
3,5-Bis(dimethylcarbamoylthio)benzonitrile was subjected to hydrolysis with aqueous sodium hydroxide according to the ordinary procedure, giving 3,5-dimercaptobenzonitile.

reactant | 3,5-Bis(dimethylcarbamoylthio)benzonitrile | CN(C(=O)SC=1C=C(C#N)C=C(C1)SC(N(C)C)=O)C | C13H15N3O2S2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3,5-dimercaptobenzonitile | SC=1C=C(C#N)C=C(C1)S | C7H5NS2
